US05380721
To a suspension of 2-(isonicotinoyl)benzoic acid (10.0 g, 44.1 mmol) in toluene (50 mL) was added methyl hydrazine (2.59 mL, 48.6 mmol). The mixture was heated to reflux while collecting water in a Dean-Stark trap for 6 hours. Additional methylhydrazine (2.59 mL) was added and the mixture was heated to reflux for another 5 hours. The reaction mixture was cooled to room temperature and the product was collected by filtration. The product was recrystallized from hot methanol to afford 8.5 g (81%) of 2-methyl-4-(4-pyridyl)-1-(2H)-phthalazinone, m.p. 173°-174 ° C.

reactant | 2-(isonicotinoyl)benzoic acid | 44.1 mmol, 10.0 g | C(C1=CC=NC=C1)(=O)C1=C(C(=O)O)C=CC=C1 | C13H9NO3
reactant | methyl hydrazine | 48.6 mmol, 2.59 mL | CNN | CH6N2
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 2-methyl-4-(4-pyridyl)-1-(2H)-phthalazinone | 8.5 g, 81% | CN1C(C2=CC=CC=C2C(=N1)C1=CC=NC=C1)=O | C14H11N3O
